US07592334B2
(a) 8-azaspiro[4.5]dec-2-ene
To a solution of 8-azaspiro[4.5]dec-2-ene-7,9-dione (3.3 g, 20 mmol) [prepared according to Cipollina, J. A.; et. al. J. Med. Chem. 1991, 34, 3316.] in THF (200 mL) at 0° C. was added LAH (3.42 mg, 90 mmol) portion-wise. After 1 h at 0° C., the solution warmed to 25° C. and was then heated to 60° C. After an additional 1 h at reflux, the solution was cooled and quenched by dropwise addition of a saturated solution of Rochelle's salt. The aqueous phase was extracted several times with DCM and the combined organic fractions were dried (Na2SO4), concentrated and purified via column chromatography (silica, 3% MeOH in DCM (1% NH4OH)) yielding the title compound (2.74 g, quant.) as a yellow oil: LCMS (ES) m/e 160 (M+Na)+.

reactant | 8-azaspiro[4.5]dec-2-ene-7,9-dione | 20 mmol, 3.3 g | C1C=CCC12CC(NC(C2)=O)=O | C9H11NO2
reactant | LAH | 90 mmol, 3.42 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 8-azaspiro[4.5]dec-2-ene | 2.74 g | C1C=CCC12CCNCC2 | C9H15N
